US05401736
Synthesis of 3-(3-methyl-4-nitrophenyl)methyl-L-histidine dihydrochloride (VIII-2)
A 6N hydrochloric acid solution (54.5 ml) was added to 3-(3-methyl-4-nitrophenyl)methyl-N-t-butoxycarbonyl-L-histidine methyl ester (IX-2) (1.3626 g, 0.00326 mol), and the mixture was refluxed under heating on a 120° C. oil bath for 2.5 hours. The resulting solution was cooled and then concentrated to obtain the objective compound (VIII-2) (1.1406 g; yield: 92.9%) as a light-brown oily material.

reactant | hydrochloric acid | 6N, 54.5 ml | Cl | ClH
reactant | 3-(3-methyl-4-nitrophenyl)methyl-N-t-butoxycarbonyl-L-histidine methyl ester | 0.00326 mol, 1.3626 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN=CN1CC1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C20H26N4O6
product | 3-(3-methyl-4-nitrophenyl)methyl-L-histidine dihydrochloride | yield: 92.9% | Cl.Cl.CC=1C=C(C=CC1[N+](=O)[O-])CN1C=NC=C1C[C@H](N)C(=O)O | InChI=1S/C14H16N4O4.2ClH/c1-9-4-10(2-3-13(9)18(21)22)7-17-8-16-6-11(17)5-12(15)14(19)20;;/h2-4,6,8,12H,5,7,15H2,1H3,(H,19,20);2*1H/t12-;;/m0../s1
